US06743794B2
[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-phenyl-acetic Acid Methyl Ester
To a solution of racemic a-bromophenylacetic acid methyl ester, 5.0 g (22.0 mmol) in 200 mL of tetrahydrofuran was added 3.4 mL (22.0 mmol) of Et3N and 8 mL (66.0 mmol) of 1-(hydroxyethyl)piperazine. The reaction mixture was refluxed for three hours, cooled to rt. and concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water. The mixture was washed with saturated NaHCO3, washed with brine, dried over Na2SO4, filtered and concentrated to dryness to give a quantitative yield of the desired mixture of isomers as a yellow oil. MS (ion spray) 279.1 (M+).

reactant | racemic a-bromophenylacetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
reactant | Et3N | 22.0 mmol, 3.4 mL | CCN(CC)CC | C6H15N
reactant | 1-(hydroxyethyl)piperazine | 66.0 mmol, 8 mL | OCCN1CCNCC1 | C6H14N2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | [4-(2-Hydroxy-ethyl)-piperazin-1-yl]-phenyl-acetic Acid Methyl Ester | quantitative yield | COC(C(C1=CC=CC=C1)N1CCN(CC1)CCO)=O | C15H22N2O3
